US05977105
b) Bicyclo[2,2,2]oct-1-ylmethyl para-toluenesulfonate
Solid para-toluenesulfonyl chloride (0.449 g) was added to a solution of bicyclo-[2,2,2]oct-1-ylmethanol (300 mg) and triethylamine (0.45 ml) in anhydrous acetonitrile (6 ml) under nitrogen. The mixture was stirred at room temperature for 16 hours then heated at reflux for 18 hours, poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ether. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ether:hexane (1:9) and further purified by preparative normal-phase HPLC on a Dynamax™ Silica column with hexane:ethyl acetate gradient elution to give the sub-title compound as an oil (0.180 g).

reactant | para-toluenesulfonyl chloride | 0.449 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | bicyclo-[2,2,2]oct-1-ylmethanol | 300 mg | C12(CCC(CC1)CC2)CO | C9H16O
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | Bicyclo[2,2,2]oct-1-ylmethyl para-toluenesulfonate | 0.180 g | C1(=CC=C(C=C1)S(=O)(=O)OCC12CCC(CC1)CC2)C | C16H22O3S
